US06509354B1
0.12 g (3.0 mmol) of 60% sodium hydride was stirred in 30 ml of N,N-dimethylformamide at room temperature while 0.2 g (3.2 mmol) of ethanethiol was added dropwise. After generation of hydrogen was over, 0.7 g (2.6 mmol) of 2-fluoro-4-(2,4-dichlorophenyl)benzonitrile was added, and the reaction mixture was stirred at 60° C. for 6 hours. The reaction mixture was poured into about 100 ml of ice-cold water and extracted with 50 ml of ethyl acetate twice. The ethyl acetate layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 0.7 g of 4-(2,4-dichlorophenyl)-2-ethylthiobenzonitrile (yield 88.0%) as pale yellow crystals (m.p. 89-92° C.).

reactant | sodium hydride | 3.0 mmol, 0.12 g | [H-].[Na+]
reactant | ethanethiol | 3.2 mmol, 0.2 g | C(C)S | C2H6S
reactant | hydrogen | [H][H] | H2
reactant | 2-fluoro-4-(2,4-dichlorophenyl)benzonitrile | 2.6 mmol, 0.7 g | FC1=C(C#N)C=CC(=C1)C1=C(C=C(C=C1)Cl)Cl | C13H6Cl2FN
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(2,4-dichlorophenyl)-2-ethylthiobenzonitrile | 0.7 g, yield 88.0% | ClC1=C(C=CC(=C1)Cl)C1=CC(=C(C#N)C=C1)SCC | C15H11Cl2NS
